US06936608B2
b) 5-(3-Bromophenyl)-1H-[1,2,4]triazole
This reaction was carried out as described in Example 40, step b, using 5-(3-bromophenyl)-1-(2-trimethylsilanylethoxymethyl)-1H-[1,2,4]triazole (2.88 g, 8.1 mmol), 2 N HCl (50 ml) and ethanol (50 ml) to yield the title compound (1.62 g, 89%): 1H NMR (360 MHz, DMSO-d6) δ 8.70 (1H, s), 8.16 (1H, s), 8.01 (1H, d, J 7.8 Hz), 7.63 (1H, d, J 7.8 Hz), 7.46 (1H, t, J 7.8 Hz).

reactant | 5-(3-bromophenyl)-1-(2-trimethylsilanylethoxymethyl)-1H-[1,2,4]triazole | 8.1 mmol, 2.88 g | BrC=1C=C(C=CC1)C1=NC=NN1COCC[Si](C)(C)C | C14H20BrN3OSi
reactant | HCl | 2 N, 50 ml | Cl | ClH
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 5-(3-Bromophenyl)-1H-[1,2,4]triazole | 1.62 g, 89% | BrC=1C=C(C=CC1)C1=NC=NN1 | C8H6BrN3
